US07375087B2
To a solution of 4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.12 g) in N,N-dimethylformamide (3 mL) were added 1-(benzyloxycarbonyl)piperazine (43 mg), 1-hydroxybenzotriazole (19 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (50 mg) and triethylamine (0.027 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water. The precipitated crystals were collected by filtration, and washed with water and dried under reduced pressure to give 4-[(4-{3-[1-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.14 g). This material was dissolved in ethanol (4 mL). To the solution was added 10% palladium-carbon powder (30 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 1.5 hours. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1-5/1) to give 5-isopropyl-4-{[4-(3-{1-[(piperazin-1-yl)carbonyl]-1-(methyl)-ethylcarbamoyl}propoxy)-2-methylphenyl]methyl}-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (89 mg). This material was dissolved in methanol (6 mL). To the solution was added sodium methoxide (28% methanol solution, 0.087 mL), and the mixture was stirred at 50° C. for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by solid phase extraction on ODS (washing solvent: distilled water, eluent: methanol) to give the title compound (54 mg).

reactant | 4-[(4-{3-[1-carboxy-1-(methyl)-ethylcarbamoyl]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.12 g | C(=O)(O)C(C)(C)NC(=O)CCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C48H73N3O14
reactant | 1-(benzyloxycarbonyl)piperazine | 43 mg | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | 1-hydroxybenzotriazole | 19 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 50 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | triethylamine | 0.027 mL | C(C)N(CC)CC | C6H15N
product | 4-[(4-{3-[1-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-1-(methyl)-ethylcarbamoyl]propoxy}-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.14 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)C(C)(C)NC(=O)CCCOC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C60H87N5O15
